US05955607
c) 6-Benzyloxy-2,2-dimethylchroman-4-one oxime
By heating 11.3 g (40 mmol) of 6-benzyloxy-2,2-dimethylchroman-4-one with 3.1 g (44 mmol) of hydroxylamine hydrochloride in 27 ml of ethanol and 27 ml of pyridine for 3 h at 70° C., after distilling off the solvent in vacuo and precipitating with water, 12.5 g of product, m.p. 105-108° C., were obtained. The product was dissolved in EA, the solution was dried and concentrated, and the residue was crystallized using petroleum ether; m.p. 118-120° C.

reactant | 6-benzyloxy-2,2-dimethylchroman-4-one | 40 mmol, 11.3 g | C(C1=CC=CC=C1)OC=1C=C2C(CC(OC2=CC1)(C)C)=O | C18H18O3
reactant | hydroxylamine hydrochloride | 44 mmol, 3.1 g | Cl.NO
solvent | ethanol | 27 ml | C(C)O | C2H6O
solvent | pyridine | 27 ml | N1=CC=CC=C1 | C5H5N
solvent | EA | CC(OCC)=O | C4H8O2
product | 6-Benzyloxy-2,2-dimethylchroman-4-one oxime | C(C1=CC=CC=C1)OC=1C=C2C(CC(OC2=CC1)(C)C)=NO | C18H19NO3
